US05342935
17-Ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16,20-pentaone
To 494.3 mg (0.6125 mmole) of 17-ethyl-1,14,20-trihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone in 20 ml ethyl ether stirred at 22° C. was added 0.45 ml of Brown-Garg reagent (prepared from 5.0 g of sodium dichromate dihydrate and 3.75 ml. of conc. sulfuric acid diluted to 25 ml with water) in 3 increments of 0.15 ml at times of 0, 30 and 85 minutes. At 80 minutes stirring after the last addition the ether layer was decanted. The aqueous layer was washed well with ether, which was added to the ether decantate. Evaporation of the ether layer led to a crude residue which was purified first by preparative thin layer chromatography on silica gel using 5% methanol in methylene chloride as eluent and then by similar purification using ethyl acetate as eluent. The product, 53.6 mg, was identified as 17-ethyl-1,14-di-hydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16,20-pentaone.

reactant | 17-ethyl-1,14,20-trihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 0.6125 mmole, 494.3 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(C(C(=C1)C)O)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O)=O | C43H69NO13
solvent | ethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | ether | CCOCC | C4H10O
product | 17-Ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16,20-pentaone | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(C(C(=C1)C)=O)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O)=O | C43H67NO13
